US07259183B2
Preparation of 2-amino-3-but-1-ynyl-5-chlorobenzoic acid methyl ester
The title compound was synthesized in analogy to 2-amino-5-chloro-3-prop-1-ynylbenzoic acid methyl ester (described in example S85) using 1-butyne (excess ca 3 ml), 2-amino-5-chloro-3-iodo-benzoic acid methyl ester (prepared as described in example S85) (430 mg, 1.38 mmol), copper (I) iodide (19 mg, 0.10 mmol) and bis(triphenyl-phosphine) palladium (II) chloride (71 mg, 0.10 mmol) in triethylamine (10 ml). The final compound was purified by flash column chromatography (9:1 cyclohexane:EtOAc) to give 2-amino-3-but-1-ynyl-5-chlorobenzoic acid methyl ester (120 mg, 37%) as a yellow oil. 1H NMR (CDCl3, 300 MHz): δ 7.76 (d, J=2.5 Hz, 1H), 7.35 (d, J=2.5 Hz, 1H), 6.37 (br s, 2H), 3.87 (s, 3H), 2.49 (q, J=7.5 Hz, 2H), 1.27 (t, J=7.5 Hz, 3H).

reactant | 2-amino-5-chloro-3-prop-1-ynylbenzoic acid methyl ester | COC(C1=C(C(=CC(=C1)Cl)C#CC)N)=O | C11H10ClNO2
reactant | 1-butyne | ca 3 ml | C#CCC | C4H6
reactant | 2-amino-5-chloro-3-iodo-benzoic acid methyl ester | 1.38 mmol, 430 mg | COC(C1=C(C(=CC(=C1)Cl)I)N)=O | C8H7ClINO2
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
catalyst | copper (I) iodide | 0.10 mmol, 19 mg | [Cu]I
catalyst | bis(triphenyl-phosphine) palladium (II) chloride | 0.10 mmol, 71 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-amino-3-but-1-ynyl-5-chlorobenzoic acid methyl ester | 120 mg, 37% | COC(C1=C(C(=CC(=C1)Cl)C#CCC)N)=O | C12H12ClNO2
